US09233988B2
1-triisopropylsilylpiperazine
A flask equipped with a stirrer, reflux condenser, dropping funnel and thermometer was charged with 189.4 g (2.2 mol) of piperazine, 200 ml of xylene, and 1.0 g (0.01 mol) of methanesulfonic acid and heated at 130° C. Once the internal temperature became steady, 192.8 g (1.0 mol) of triisopropylchlorosilane was added dropwise over 2 hours. Stirring was continued for 10 hours at the temperature. The reaction solution was cooled to room temperature, to which 500 g of a 10 wt % sodium hydroxide aqueous solution was added. The organic layer was separated. On distillation, 132.6 g of a fraction having a boiling point of 109-111° C./0.4 kPa was collected, which was 1-triisopropylsilylpiperazine.

reactant | piperazine | 2.2 mol, 189.4 g | N1CCNCC1 | C4H10N2
reactant | methanesulfonic acid | 0.01 mol, 1.0 g | CS(=O)(=O)O | CH4O3S
reactant | triisopropylchlorosilane | 1.0 mol, 192.8 g | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
reactant | sodium hydroxide | [OH-].[Na+]
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-triisopropylsilylpiperazine | C(C)(C)[Si](N1CCNCC1)(C(C)C)C(C)C | C13H30N2Si
